US03972886
A. 3-Benzylthio-5-chlorosulfonyl-4-phenylthiobenzoic acid
5-Amino-3-benzylthio-4-phenylthiobenzoic acid (1.1 g), acetic acid (10 ml), and concentrated hydrochloric acid (10 ml) is stirred and cooled to 5°C. At this temperature a concentrated solution of sodium nitrite (0.21 g) is added slowly while stirring. The resultng diazonium mixture is poured into acetic acid (20 ml), saturated with sulphur dioxide and containing copper chloride (0.2 g CuCl2, 2 H2O). The reaction mixture is allowed to reach room temperature while stirring. After 30 minutes, the precipitated 3-benzylthio-5-chlorosulfonyl-4-phenylthiobenzoic acid is collected, washed with aqueous acetic acid and dried in vacuo at room temperature.

reactant | 5-Amino-3-benzylthio-4-phenylthiobenzoic acid | 1.1 g | NC=1C(=C(C=C(C(=S)O)C1)SCC1=CC=CC=C1)C1=CC=CC=C1 | C20H17NOS2
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | sodium nitrite | 0.21 g | N(=O)[O-].[Na+]
reactant | sulphur dioxide | S(=O)=O | O2S
catalyst | copper chloride | 0.2 g | [Cu](Cl)Cl
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 3-Benzylthio-5-chlorosulfonyl-4-phenylthiobenzoic acid | C(C1=CC=CC=C1)SC=1C=C(C(=S)O)C=C(C1C1=CC=CC=C1)S(=O)(=O)Cl | C20H15ClO3S3
